US08207344B2
1: 4-(4-Bromo-phenyl)-1-methanesulfonyl-piperidin-4-ol
Methanesulfonyl chloride (21.91 g, 14.81 mL, 191.30 mmol) is added slowly (10 min) to a solution of 4-(4-bromophenyl)-4-piperidinol (50.00 g, 191.30 mmol) and triethylamine (29.04 g, 40.00 mL, 286.95 mmol) in tetrahydrofuran (575 mL) at 23° C. (internal temperature) under nitrogen atmosphere. The mixture is stirred at 23° C. for 30 min. 500 mL of 1 M aq hydrochloric acid are added and the mixture is stirred for 10 min. The mixture is extracted with ethyl acetate (2×500 mL) the organic layers are combined, dried over anhydrous sodium sulfate, filtered and the solvent is removed to obtain 60.0 g of the title compound as a white solid. MS m/e (79Br/81Br) 333, 335 (M+1).

reactant | Methanesulfonyl chloride | 191.30 mmol, 14.81 mL, 21.91 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(4-bromophenyl)-4-piperidinol | 191.30 mmol, 50.00 g | BrC1=CC=C(C=C1)C1(CCNCC1)O | C11H14BrNO
reactant | triethylamine | 286.95 mmol, 40.00 mL, 29.04 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 M, 500 mL | Cl | ClH
solvent | tetrahydrofuran | 575 mL | O1CCCC1 | C4H8O
product | 4-(4-Bromo-phenyl)-1-methanesulfonyl-piperidin-4-ol | 60.0 g | BrC1=CC=C(C=C1)C1(CCN(CC1)S(=O)(=O)C)O | C12H16BrNO3S
